US07176242B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-[(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methyl]benzamide
To 3-(bromomethyl)benzoic acid (200 mg, 0.93 mmol) and diisopropylethylamine (566 μL, 3.26 mmol) in DMF (5 mL) is added HATU (424 mg, 1.12 mmol), and the reaction is stirred 5 min. To the reaction is added (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method in EXAMPLE SP-272 (379 mg, 0.93 mmol), and the reaction stirred 30 min. The reaction mixture is diluted with methylene chloride, washed with 1 N hydrochloric acid (15 mL), saturated sodium bicarbonate (15 mL), and brine. The organic layer is then dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/chloroform) provides the title compound. ESI MS m/z 587.4 [M+H]+.

reactant | 3-(bromomethyl)benzoic acid | 0.93 mmol, 200 mg | BrCC=1C=C(C(=O)O)C=CC1 | C8H7BrO2
reactant | diisopropylethylamine | 3.26 mmol, 566 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.12 mmol, 424 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-[(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)methyl]benzamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=CC=C2)CON2N=NC=3C2=NC=CC3)=O)C=C(C1)F | C32H32F2N6O3
